US07393873B2
Methyl 4-({[2-(2,4-dichlorophenoxy)phenyl]amino}sulfonyl)phenylcarbamate
To a solution of 4-isocyanatobenzenesulfonyl chloride (0.20 g, 0.92 mmol) in pyridine (0.92 mL) at 0° C. was added methanol (38 μL, 0.92 mmol). The ice bath was removed after 5 min, and the reaction mixture was slowly warmed to room temperature. After 1.5 hrs of stirring, 2-(2,4-dichloro-phenoxy)aniline hydrochloride (0.27 g, 0.92 mmol) was added. After 1.5 hrs of stirring, the reaction mixture was diluted with ethyl acetate and washed with 0.5 N HCl (×2), water (×2), half brine and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography eluted with 10-60% ethyl acetate in hexane to provide the title compound. MS (ES, M+H+): 467.0. 1H NMR (400 MHz, CD3OD) δ 7.62 (m, 3H), 7.48 (d, J=2.4 Hz, 1H), 7.43 (dd, J=9.2 Hz, 2H), 7.09 (m, 3H), 6.58 (m, 1H), 6.37 (d, J=8.8 Hz, 1H), 3.76 (s, 3H).

reactant | 4-isocyanatobenzenesulfonyl chloride | 0.92 mmol, 0.20 g | N(=C=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO3S
reactant | methanol | 0.92 mmol, 38 μL | CO | CH4O
reactant | 2-(2,4-dichloro-phenoxy)aniline hydrochloride | 0.92 mmol, 0.27 g | Cl.ClC1=C(OC2=C(N)C=CC=C2)C=CC(=C1)Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 0.92 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 4-({[2-(2,4-dichlorophenoxy)phenyl]amino}sulfonyl)phenylcarbamate | ClC1=C(OC2=C(C=CC=C2)NS(=O)(=O)C2=CC=C(C=C2)NC(OC)=O)C=CC(=C1)Cl | C20H16Cl2N2O5S
